US05571821
4-(N'-Cyclohexylureido)-N-(3,4-dimethyl-5-isoxazolyl)benzene sulfonamide
This compound was prepared from 4-amino-N-(3,4-dimethyl-5-isoxazolyl)benzene-sulfonamide and cyclohexyl isocyanate according to the method in Example 110 in 75% crude yield. Further purification was achieved by preparative HPLC (76% recovery), furnishing the pure product as a white solid, m.p. 190°-195° C.

reactant | 4-amino-N-(3,4-dimethyl-5-isoxazolyl)benzene-sulfonamide | NC1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NO1)C)C | C11H13N3O3S
reactant | cyclohexyl isocyanate | C1(CCCCC1)N=C=O | C7H11NO
product | 4-(N'-Cyclohexylureido)-N-(3,4-dimethyl-5-isoxazolyl)benzene sulfonamide | C1(CCCCC1)NC(NC1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NO1)C)C)=O | C18H24N4O4S
